### PR TITLE
[Merged by Bors] - chore(LinearAlgebra/Dual): generalize to semirings

### PR DESCRIPTION
**Pull request by alreadydone**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Dual/Lemmas.lean [hunk 1]
```diff
@@ -141,106 +146,102 @@ instance dual_finite [Projective R M] : Module.Finite R (Dual R M) :=
...
+theorem nontrivial_dual_iff : Nontrivial (Dual K V) ↔ Nontrivial V := by
   rw [← not_iff_not, not_nontrivial_iff_subsingleton, not_nontrivial_iff_subsingleton,
     subsingleton_dual_iff]
 
 instance instNontrivialDual [Nontrivial V] : Nontrivial (Dual K V) :=
   (nontrivial_dual_iff K).mpr inferInstance
 
 omit [Projective K V] in
+/- May fail if `V` is only a projective `R`-module;
+see https://stacks.math.columbia.edu/tag/05WG#comment-9913. -/
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Dual/Lemmas.lean:213]: By "may fail if" I assume you mean "May not generalize to the case when"?

File: Mathlib/LinearAlgebra/Dual/Basis.lean [hunk 2]
```diff
@@ -240,7 +230,7 @@ elab "use_finite_instance" : tactic => evalUseFiniteInstance
 structure Module.DualBases (e : ι → M) (ε : ι → Dual R M) : Prop where
   eval_same : ∀ i, ε i (e i) = 1
   eval_of_ne : Pairwise fun i j ↦ ε i (e j) = 0
-  protected total : ∀ {m : M}, (∀ i, ε i m = 0) → m = 0
+  protected total : ∀ {m₁ m₂ : M}, (∀ i, ε i m₁ = ε i m₂) → m₁ = m₂
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Dual/Basis.lean:233]: What do you think of stating this with `Function.Injective (fun m => (ε · m))`?

Comment (alreadydone) [reply Mathlib/LinearAlgebra/Dual/Basis.lean:233]: That might make it harder to prove?

File: Mathlib/LinearAlgebra/Dual/Lemmas.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Dual/Lemmas.lean:213]: I would say "does not generalize to the case when".

File: Mathlib/LinearAlgebra/Dual/Lemmas.lean [hunk 3]
```diff
@@ -141,106 +146,102 @@ instance dual_finite [Projective R M] : Module.Finite R (Dual R M) :=
...
-    Nontrivial (Dual K V) ↔ Nontrivial V := by
+theorem nontrivial_dual_iff : Nontrivial (Dual K V) ↔ Nontrivial V := by
   rw [← not_iff_not, not_nontrivial_iff_subsingleton, not_nontrivial_iff_subsingleton,
     subsingleton_dual_iff]
 
 instance instNontrivialDual [Nontrivial V] : Nontrivial (Dual K V) :=
   (nontrivial_dual_iff K).mpr inferInstance
 
 omit [Projective K V] in
+/- May fail if `V` is only a projective `R`-module;
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/Dual/Lemmas.lean:212]:
```suggestion
/- May fail if `V` is only a projective `K`-module;
```

File: Mathlib/LinearAlgebra/Dual/Lemmas.lean [hunk 4]
```diff
@@ -141,106 +146,102 @@ instance dual_finite [Projective R M] : Module.Finite R (Dual R M) :=
...
+theorem nontrivial_dual_iff : Nontrivial (Dual K V) ↔ Nontrivial V := by
   rw [← not_iff_not, not_nontrivial_iff_subsingleton, not_nontrivial_iff_subsingleton,
     subsingleton_dual_iff]
 
 instance instNontrivialDual [Nontrivial V] : Nontrivial (Dual K V) :=
   (nontrivial_dual_iff K).mpr inferInstance
 
 omit [Projective K V] in
+/- May fail if `V` is only a projective `K`-module;
+see https://stacks.math.columbia.edu/tag/05WG#comment-9913. -/
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Dual/Lemmas.lean:213]: If the "may" here means "sometimes" not "it is conjectured that", then I think this should be promoted to a docstring, and reworded as discussed previously.

File: Mathlib/LinearAlgebra/Dual/Basis.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Dual/Basis.lean:233]: They're the same modulo `funext`, but maybe there's not much in it.

File: Mathlib/LinearAlgebra/Dual/Lemmas.lean [hunk 5]
```diff
@@ -123,9 +124,13 @@ theorem linearEquiv_dual_iff_finiteDimensional [Field K] [AddCommGroup V] [Modul
   have := e.lift_rank_eq
   rwa [lift_umax, lift_id'.{uV}] at this
 
+theorem Basis.dual_rank_eq (b : Basis ι R M) :
+    Cardinal.lift.{uR,uM} (Module.rank R M) = Module.rank R (Dual R M) := by
+  classical rw [← lift_umax.{uM,uR}, b.toDualEquiv.lift_rank_eq, lift_id'.{uM,uR}]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Dual/Lemmas.lean:129]: This statement looks backwards to me.

Comment (alreadydone) [reply Mathlib/LinearAlgebra/Dual/Lemmas.lean]: Good point; swapped.

File: Mathlib/LinearAlgebra/Finsupp/Defs.lean [hunk 6]
```diff
@@ -167,6 +167,10 @@ def lcomapDomain (f : α → β) (hf : Function.Injective f) : (β →₀ M) →
   map_add' x y := by ext; simp
   map_smul' c x := by ext; simp
 
+theorem lcomapDomain_leftInverse (f : α → β) (hf : Function.Injective f) :
+    Function.LeftInverse (lcomapDomain (R := R) (M := M) f hf) (mapDomain f) :=
+  fun _ ↦ Finsupp.ext fun a ↦ by simp [mapDomain_apply hf]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Finsupp/Defs.lean:172]: Is `Finsupp.mapDomain_comapDomain` this lemma, or is that the other direction?

Comment (alreadydone) [reply Mathlib/LinearAlgebra/Finsupp/Defs.lean:172]: It's the other direction (which only holds with the assumption on the range).

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Finsupp/Defs.lean:172]: Can you add `Finsupp.comapDomain_mapDomain` as a lemma then?

Comment (alreadydone) [reply Mathlib/LinearAlgebra/Finsupp/Defs.lean]: Done.

File: Mathlib/LinearAlgebra/Dual/Lemmas.lean [hunk 7]
```diff
@@ -141,106 +146,101 @@ instance dual_finite [Projective R M] : Module.Finite R (Dual R M) :=
...
 
 open Module Module.Dual Submodule LinearMap Cardinal Basis Module
 
 section
 
-variable (K) (V)
+variable (K)
 
-theorem eval_ker : LinearMap.ker (eval K V) = ⊥ :=
+theorem eval_apply_injective : Function.Injective (eval K V) :=
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Dual/Lemmas.lean:171]: I think this is missing a deprecation.

**Review by j-loreaux — APPROVED** [review]
Otherwise looks okay to me.

bors d+

File: Mathlib/LinearAlgebra/Dual/Lemmas.lean [hunk 8]
```diff
@@ -141,106 +146,101 @@ instance dual_finite [Projective R M] : Module.Finite R (Dual R M) :=
...
+  .of_comp (f := s.dualMap.dualMap)
+    (Finsupp.basisSingleOne.eval_injective.comp <| injective_of_comp_eq_id s _ hs)
+
+variable (V)
 
-theorem map_eval_injective : (Submodule.map (eval K V)).Injective := by
-  apply Submodule.map_injective_of_injective
-  rw [← LinearMap.ker_eq_bot]
-  exact eval_ker K V
+theorem eval_ker : LinearMap.ker (eval K V) = ⊥ := ker_eq_bot_of_injective (eval_apply_injective K)
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/Dual/Lemmas.lean:178]: It's still here @j-loreaux
